US06953806B2
In analogy to the procedure described in example 3.4, the trans-(4-hydroxymethyl-cyclohexylmethyl)-methyl-carbamic acid 4-chloro-phenyl ester was treated with methanesulfonyl chloride to yield trans-methanesulfonic acid 4-{[(4-chloro-phenoxycarbonyl)-methyl-amino]-methyl}-cyclohexylmethyl ester as colorless viscous oil, MS: 390 (MH+).

reactant | trans-(4-hydroxymethyl-cyclohexylmethyl)-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)C[C@@H]1CC[C@H](CC1)CO)=O | C16H22ClNO3
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | trans-methanesulfonic acid 4-{[(4-chloro-phenoxycarbonyl)-methyl-amino]-methyl}-cyclohexylmethyl ester | ClC1=CC=C(OC(=O)N(C)C[C@@H]2CC[C@H](CC2)COS(=O)(=O)C)C=C1 | C17H24ClNO5S
